US07045539B2
Synthetic Method N: Synthesis of 5-methoxy-2-(4-methoxy-phenyl)-benzooxazole-7-carbonitrile
To 7-bromo-5-methoxy-2-(4-methoxy-phenyl)-benzooxazole (200 mg) in DMF (5 mL) was added CuCN (80 mg). The mixture was placed in an oil bath and heated to 150° C. for 3 h. The mixture was cooled to room temperature and diluted with ethyl acetate and washed with 1N HCl, brine (3×), dried (Na2SO4), and concentrated. Flash chromatography on silica gel eluting with 20% ethyl acetate-hexane afforded 85 mg (50%) of the title compound as a solid. MS: 281 (MH+), HPLC tR: 2.71 min.

reactant | 7-bromo-5-methoxy-2-(4-methoxy-phenyl)-benzooxazole | 200 mg | BrC1=CC(=CC=2N=C(OC21)C2=CC=C(C=C2)OC)OC | C15H12BrNO3
reactant | CuCN | 80 mg | C(#N)[Cu]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-methoxy-2-(4-methoxy-phenyl)-benzooxazole-7-carbonitrile | 85 mg, 50% | COC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)OC)C1)C#N | C16H12N2O3
